US07700243B2
Preparation of N,N-diethyl-N-methyl-N-methoxymethylammonium Chloride (DEMMOMCl)
A 30.0 g quantity of N,N diethyl-N-methvlamine (reagent, product of Tokyo Kasei Co., Ltd.) was dissolved in 120 g of toluene, followed by nitrogen replacement. Over a period of 1 hour, 31.2 g of chloromethyl methyl ether (reagent, product of Tokyo Kasei Co., Ltd.) was added dropwise to the solution at 5° C. The mixture was stirred at 5° C. for 1 hour, heated to a gradually elevated temperature and stirred at room temperature for 10 hours to complete the reaction. The reaction mixture was filtered, and the solids obtained were washed with 150 g of toluene and 150 g of acetone and then dried in a vacuum, giving 53.7 g of the desired product (white solid).

reactant | N,N diethyl-N-methvlamine | C(C)N(C)CC | C5H13N
reactant | chloromethyl methyl ether | 31.2 g | COCCl | C2H5ClO
solvent | toluene | 120 g | C1(=CC=CC=C1)C | C7H8
product | N,N-diethyl-N-methyl-N-methoxymethylammonium Chloride | 53.7 g | [Cl-].C(C)[N+](COC)(C)CC | InChI=1S/C7H18NO.ClH/c1-5-8(3,6-2)7-9-4;/h5-7H2,1-4H3;1H/q+1;/p-1
